US06720452B2
a) 2-Chloro-5-[3-chloropropoxy]-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a solution of 2-chloro-5-hydroxy-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (WO 99/29661) (0.48 g) in ethanol (5 ml) was added caesium carbonate (0.977 g) and reaction mixture heated to 85° C. for 10 min. before addition of 1-bromo-3-chloropropane (0.74 ml). Heating was continued for 24 h before cooling to room temperature and concentration under reduced pressure. The residue was dissolved in ethyl acetate and washed with water(twice), then with KHSO4 solution and brine. The organics were dried (MgSO4), concentrated and the residue purified by silica gel chromatography (eluting with 20% ethyl acetate in isohexanes) to deliver the sub-title compound as a pale yellow foam (0.50 g).

reactant | 2-chloro-5-hydroxy-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.48 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)O | C18H22ClNO2
reactant | caesium carbonate | 0.977 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-chloropropane | 0.74 ml | BrCCCCl | C3H6BrCl
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-Chloro-5-[3-chloropropoxy]-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)OCCCCl | C21H27Cl2NO2
